2184-04-15 07:45:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
   - Cards: [**Hospital 1954**] medical mgt with BB and ACEI, no dobutamine MIBI.
   Will need to ask operative risk for thoracotomy/VATS.  Increased
   metoprolol to 25mg TID given HR 110s.
   - BMT: Hold VATS, hold steroids, hold ganciclovir
   - ID: Continue atovaquone, acyclovir, voriconazole ppx
   - Med changes: D/c'd levofloxacin
   - [**Hospital 503**]: Sent for stool OP given concern for strongyloides
   - Resp: nasal cannula to facemask overnight for hypoxia while sleeping
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-4-13**] 06:36 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-15**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 91 (91 - 116) bpm
   BP: 136/81(94) {89/50(62) - 146/82(96)} mmHg
   RR: 26 (20 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,260 mL
                                                                    200 mL
   PO:
                                                                  1,260 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    450 mL
   Urine:
                                                                  1,850 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -590 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95% on 50% high flow O2 mask
   ABG: ///29/
   Physical Examination
   Gen: in nad, speaking in full sentences
   HEENT: mmm, no jvd.  Eomi
   Pulm: insp crackles bilat, bases > apices
   COR: nl s1s2 no m/r/g
   ABD: soft, NT / ND.  Nabs
   EXTREM: trace pitting edema
   NEURO: a+o x 3, friendly.
   [**Name2 (NI) 503**] / Radiology
   62 K/uL
   8.7 g/dL
   115 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.2 mEq/L
   35 mg/dL
   103 mEq/L
   139 mEq/L
   26.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2184-4-13**]  09:46 AM
                             [**2184-4-13**]  10:04 AM
                             [**2184-4-13**]  04:07 PM
                             [**2184-4-14**]  03:50 AM
                             [**2184-4-14**]  07:21 PM
                             [**2184-4-15**]  03:53 AM
   WBC
   4.8
   2.9
   6.1
   Hct
   27.1
   25.3
   26.7
   Plt
   67
   62
   62
   Cr
   1.2
   1.3
   1.3
   1.4
   1.3
   TropT
   0.01
   TCO2
   31
   Glucose
   107
   299
   206
   300
   115
   Other [**Year (4 digits) **]: CK / CKMB / Troponin-T:8/2/0.01, Differential-Neuts:62.1 %,
   Lymph:24.4 %, Mono:11.0 %, Eos:2.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   MICRO
   ADENOVIRUS PCR
   ASPERGILLUS GALACTOMANNAN ANTIGEN
   B-GLUCAN
   HERPES 6 PCR
   STRONGYLOIDES ANTIBODY,IGG
   [1][**2184-4-14**] 03:55PM
   PND
   [2][**2184-4-14**] 03:50AM
   PND
   [3][**2184-4-14**] 03:50AM
   PND
   [4][**2184-4-12**] 09:41AM
   [5][**2184-4-12**] 09:41AM
   [6][**2184-4-14**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [7][**2184-4-10**]
   ASPIRATE NOT PROCESSED
   INPATIENT
   [8][**2184-4-10**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; LEGIONELLA
   CULTURE-PENDING; Immunoflourescent test for Pneumocystis jirovecii
   (carinii)-FINAL; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [9][**2184-4-10**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [10][**2184-4-10**]
   Immunology (CMV)
   CMV Viral Load-FINAL
   INPATIENT
   [11][**2184-4-9**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; LEGIONELLA CULTURE-PENDING
   INPATIENT
   [12][**2184-4-9**]
   URINE
   Legionella Urinary Antigen -FINAL
   Urine
   [13][image003.gif]   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [14][**2184-4-14**] 08:55PM
                                      2
                                      3
                                    NONE
                                    NONE
                                      0
   RADS
   CXR
   FINDINGS:  In comparison with study of [**4-13**], there is little change.  Ag
   ain,
   There are low lung volumes with patchy bilateral pulmonary opacificatio
   ns,
   especially in the lower lung zone.  Again, this could reflect ARDS, mul
   tifocal
   pneumonia, or some element of pulmonary vascular congestion.
   Assessment and Plan
   The patient is a 52 yo male with hx of AML, now day +142 s/p cord blood
   transplant hosp course c/b hypoxic resp failure requiring intubation
   possibly [**2-14**] to cyclosporine tox and ARRDS who initially improved but
   has become increasingly hypoxic on the BMT floor.
    # Hypoxic resp failure:  Patient has intermittent hypoxia over the
   past week generally responsive to lasix. Differential includes
   Pulmonary process versus cardiac process, and most likely a
   combination.
   CARDS
 likely experiencing intermittent anginal episodes; doubt active
   current ischemia.  Will optimize medical regimen per cardiology.  Hold
   on stress testing.
   -          titrate BB, goal HR < 60 if BP tolerate
   -          cont acei-I
   -          holding asa per BMT reccs
   PULM
   DDx includes Pulm fibrosis, post ARDS, sarcoidosis, Eosinophilic lung
   disease.  [**Month (only) 60**] benefit from systemic corticosteroids, however will await
   testing for Strongyloides before treatment.  O+P pending, and
   strongyloides antibody.  Will cont to diurese w/ lasix prn, goal -500
   today.
   -          VATS on hold
   #ID
   He has been afebrile for past week and no positive cx data to date
   except for rare coag neg staph from one nasal swab.
   Will eval for Strongyloides.
   D/c
d Levaquin, since was on > 1 mo without clear indication.
   F/u cultures
   - continue prophylaxis withh acyclovir, voriconazole, atrovaquone
   - recycle galactomannan and B-glucan, f/u previous
   - if spikes, would cover broadly for HAP with Cefepime/Vanc/Levo. Of
   note, he has had a possible hx of drug fever to meropenam
   # HEME
   **AML
   - Cyclosporin was switched to Tacrolimus on [**2184-3-31**]
   - continue tacrolimus and cellcept
   - continue acyclovir, voriconazole, atrovaquone (started [**4-13**]) PPx
   - will need to clarify with BMT why he is on atovaquone as no hx of
   sulfa allergy
   - wil follow with BMT
   **Thrombocytopenia: baseline levels of around 50 throughout
   hospitalziation.  Cont trend.
   - goal plts >20 unless actively bleeding
   #ARF:
   RESOVLED.
   @ Baseline cre 1.3-1.5. During recent [**Hospital Unit Name 44**] course had ARF [**2-14**] ATN and
   prerenal.
   ICU Care
   Nutrition:
   Low Na diet, cardiac.
   Glycemic Control:  ssi, moderate to poor control; ssi increased.
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: NONE: heparin?  Will check w/ BMT if ok to use w/ him.
   Stress ulcer: lansoprazole
   VAP:  na
   Comments:
   Communication:  Comments: with entire family
   Code status: full
   Disposition: icu level care
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_73%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_74%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_75%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_76%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_77%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
  13. javascript:command('LHUC','expand')
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_82%22);

2184-04-16 06:49:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   O+P sent
   metop increased to 125 mg tid, prn iv metoprolol for HR
   d/c captopril (get more room on BP, also can cause aplastic anemia)
   asa 81 QOD started
   ID: consider CT chest next week to re eval lung pathology, hold on
   treatment of HHV6
   extra lasix gtts 40 mg iv lasix
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-4-13**] 06:36 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-4-15**] 08:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-16**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 86 (85 - 103) bpm
   BP: 140/82(96) {87/51(59) - 140/82(96)} mmHg
   RR: 28 (26 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,650 mL
                  PO:
                                                                  1,650 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    800 mL
   Urine:
                                                                  2,020 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -370 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   8.1 g/dL
   102 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.7 mEq/L
   38 mg/dL
   104 mEq/L
   139 mEq/L
   25.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2184-4-13**]  09:46 AM
                             [**2184-4-13**]  10:04 AM
                             [**2184-4-13**]  04:07 PM
                             [**2184-4-14**]  03:50 AM
                             [**2184-4-14**]  07:21 PM
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
   WBC
   4.8
   2.9
   6.1
   4.4
   Hct
   27.1
   25.3
   26.7
   25.1
   Plt
   67
   62
   62
   42
   Cr
   1.2
   1.3
   1.3
   1.4
   1.3
   1.4
   TropT
   0.01
   TCO2
   31
   Glucose
   107
   299
   206
   300
   115
   102
   Other labs: PT / PTT / INR:13.7/30.3/1.2, CK / CKMB /
   Troponin-T:8/2/0.01, Differential-Neuts:62.1 %, Lymph:24.4 %, Mono:11.0
   %, Eos:2.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.7 mg/dL
   Micro
   ADENOVIRUS PCR
   ASPERGILLUS GALACTOMANNAN ANTIGEN
   B-GLUCAN
   EBV PCR, QUANTITATIVE, WHOLE BLOOD
   HERPES 6 PCR
   STRONGYLOIDES ANTIBODY,IGG
   [1][**2184-4-14**] 03:55PM
   PND
   [2][**2184-4-14**] 03:50AM
   PND
   [3][**2184-4-14**] 03:50AM
   PND
   [4][**2184-4-12**] 09:41AM
   [5][**2184-4-12**] 09:41AM
   Rads
   No new
   Recent rads reviewed
   Assessment and Plan
   The patient is a 52 yo male with hx of AML, now day +141 s/p cord blood
   transplant hosp course c/b hypoxic resp failure requiring intubation
   possibly [**2-14**] to cyclosporine tox and ARRDS who initially improved but
   has become increasingly hypoxic on the BMT floor
    Hypoxic resp failure:  Patient has intermittent hypoxia over the past
   week generally responsive to lasix. Differential includes Pulmonary
   process versus cardiac process, and most likely a combination.
    PULM
   Sarcoid
   Eos lung disease
   Pulm fibrosis s/p ards
   Id doubts strongyloides
   CARDIAC
   optimize med regimen
   asa qod
   metop
   off captopril
   echo trend -- mild lv dysfunction. mild rv dysfunction. EF increasing
   from [**2182**]. 40-45 --> 50-55.
   - continue to diurese, goal negative 1L
   - f/u cardiology consult for consideration of a left heart cath or
   dobutamine stress MIBI, or any other interesting but revealing options.
   - continue NC and try to wean as tolerated
   - continue around the clock nebs.
   - for the next 2 days will diurese him and assess  improvement. If
   worsens, will certainly start steroids. After trial of pure diuresis
   only (will tolerate creatinine bump) would rescan chest. If no change,
   will try on trial of steroids given peripheral eosoniphila suggestiong
   of eosinophilc PNA and CT, if uncahged, as well as lung exam.
   - ultimately would need VATS to make a tissue diagnosis, but will
   currently defer, since he is improving and would need to be intubated
   for this.
   ID:
   OFF levo
   continue prophylaxis withh acyclovir, voriconazole, atrovaquone
    He has been afebrile for past week and no positive cx data to date
   except for rare coag neg staph from one nasal swab.
   - currently no fever and no definitive cause of infection.
   - consider discontinuing Levaquin, since no cultures positive to treat.
   ID ok with this, will f/u with BMT.
   - recycle galactomannan and B-glucan, f/u previous
   - CT showed possible sinusitis & multifocal PNA. ENT did middle meatal
   cultures but they came back negative. If spikes a temp, will need to
   consider sinuses as well as other more common sites of infection
   - if spikes, would cover broadly for HAP with Cefepime/Vanc/Levo. Of
   note, he has had a possible hx of drug fever to meropenam
   -
   AML
   - Cyclosporin was switched to Tacrolimus on [**2184-3-31**]
   - continue tacrolimus and cellcept
   - continue acyclovir, voriconazole, atrovaquone PPx
   - will need to clarify with BMT why he is on atovaquone as no hx of
   sulfa allergy
   - wil follow with BMT
   ARF: baseline cre 1.3-1.5. During recent [**Hospital Unit Name 44**] course had ARF [**2-14**] ATN
   and prerenal. This has since resolved and current creatinine is the
   best it has been.  Will look at smear fluctuating given renal failure.
   Thrombocytopenia: baseline levels of around 50 throughout
   hospitalziation.
   - goal plts >20 unless actively bleeding
   ICU Care
   Nutrition:
   Glycemic Control:  SSI, with post prandial excursions, am level ok.
   Tightened lunch / dinner sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: boots, no heparin per BMT reccs
   Stress ulcer: lanzoprazole
   VAP:  na
   Comments:
   Communication:  Comments: family
   Code status: full
   Disposition: ? floor
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_29%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_30%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_31%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_32%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_33%22);

2184-04-16 10:40:00 Physician Attending Progress Note
Chief Complaint: respiratory distress / hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Back on FACE [**Last Name (un) 1968**]
   Feels like he is better when he lays flat.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Levofloxacin - [**2184-4-13**] 06:36 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-4-15**] 08:51 PM
   Other medications:
   atrovent, singulair, voriconazole, nystatin, acyclovir, folate,
   bisacodyl, atovaquone, PPI, MMF, ursodiol, SQI, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-4-16**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 82 (81 - 101) bpm
   BP: 122/76(86) {87/51(59) - 140/82(96)} mmHg
   RR: 10 (10 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,650 mL
                  PO:
                                                                  1,650 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                  1,050 mL
   Urine:
                                                                  2,020 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -370 mL
                                                                 -1,050 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Cor: regular without a gallop
   Respiratory / Chest: (Breath Sounds: Crackles : ~1/4 up; a bit
   improved)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, slight tremor
   Labs / Radiology
   8.1 g/dL
   42 K/uL
   102 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.7 mEq/L
   38 mg/dL
   104 mEq/L
   139 mEq/L
   25.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2184-4-13**]  09:46 AM
                             [**2184-4-13**]  10:04 AM
                             [**2184-4-13**]  04:07 PM
                             [**2184-4-14**]  03:50 AM
                             [**2184-4-14**]  07:21 PM
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
   WBC
   4.8
   2.9
   6.1
   4.4
   Hct
   27.1
   25.3
   26.7
   25.1
   Plt
   67
   62
   62
   42
   Cr
   1.2
   1.3
   1.3
   1.4
   1.3
   1.4
   TropT
   0.01
   TCO2
   31
   Glucose
   107
   299
   206
   300
   115
   102
   Other labs: PT / PTT / INR:13.7/30.3/1.2, CK / CKMB /
   Troponin-T:8/2/0.01, Differential-Neuts:62.1 %, Lymph:24.4 %, Mono:11.0
   %, Eos:2.4 %, Lactic Acid:1.0 mmol/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   52-year-old male with AML s/p myeloablative unrelated cord blood
   transplant now approximately day +150.  He comes to the ICU with
   dyspnea, hypoxemia, and radiographic infiltrates.  These have both an
   acute, episodic component and a more subacute component.
   He seems to have worsened overnight
 his O2 requirement is going up
   and he looks a little more distressed to me.  Interestingly, he says
   his orthopnea is better.
   He was also discovered today to have been receiving the incorrect
   tacrolimus tablets
 5mg instead of 0.5mg. This appears to have been a
   dispensing issue rather than an order issue. Discussed with patient.
   Will check tacro level and hold dosese for now.
   The episodic, intermittent component appears to be related to coronary
   arterial disease with transient LV diastolic dysfunction.  We have made
   good progress in rate/pressure control and diuresis, and I think we are
   close to having optimized him here.  [**Month (only) 60**] need to add nitrates if
   symptoms recur.  Continues on aspirin (every other day per BMT) and
   metoprolol.  Off of ACEI for now since we are optimizing rate control.
   For the more chronic component, he seems to be worsening.  Please see
   my note from yesterday regarding the differential diagnosis, which
   includes BOOP/COP, AEP/CEP, sarcoid, and even pulmonary-renal
   syndromes, as well as others.
   Given that he appears worse in spite of better cardiac control, we will
   pursue noncontrast CT imaging today to evaluate for changes.  Suspect
   that we should pursue empiric steroids at this point.
   We
ll continue his current GVHD regimen, except that we
ll hold
   tacrolimus while the level is drawn (and presumably falls).
   Other issues as detailed in ICU team note.
   Mr. [**Known lastname 1414**] remains critically ill.  Total time: 35 minutes
   ICU Care
   Nutrition: eating
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Disposition :ICU
   Total time spent:  35min
   Patient is critically ill
   CRITICAL CARE STAFF ADDENDUM
   2pm
   CT was quite helpful.  Parenchymal disease has clearly worsened, with
   an overall more peripheral and generally peribronchial distribution.
   Bases are more confluent.  This is fairly suggesting of cryptogenic
   organizing pneumonia.  Certainly other things (CEP, even Wegener
   etc.) remain in the radiographic differential.  There
s no clinical
   evidence for infection at this point.  Stool O&P is ordered (for
   Strongyloides) but he has not moved his bowels yet.
   We will treat with empiric steroids at this point
 Solumedrol 125mg IV
   q 6 hours for a few days, then taper.  We chose this dose because he
   has fairly rapidly progressive and quite severe disease.  Although we
   would often recommend biopsy, I would not do so in this case because of
   his unrevascularized, known LM/LAD CAD and his tenuous oxygenation
   status.
   Discussed with patient, wife, and Dr. [**First Name (STitle) 1422**].
   45 minutes

2184-04-17 07:56:00 Physician Resident Progress Note
Chief Complaint: 52M h/o AML, day +143 s/p cord blood transplant, c/b
   ARDS [**2-14**] cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing hypoxemia.
   24 Hour Events:
   - CT chest: Likely BOOP
   - BOOP: Started methylprednisolone 125mg Q6H x3 days with long taper
   - Tacrolimus dosing per BMT, currently being held
   - Enterococci UTI: Repeat UA, cx before starting vancomycin
   - CP: Resolved with SLNTG + nitro paste, morphine, no EKG changes, ABG
   normal (on O2)
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2184-4-16**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-17**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 88 (74 - 94) bpm
   BP: 125/78(89) {110/66(79) - 144/88(100)} mmHg
   RR: 23 (9 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    815 mL
                                                                     76 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                    115 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    550 mL
   Urine:
                                                                  1,610 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -795 mL
                                                                   -474 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: No new blood gas this a.m.
   Physical Examination
   Gen: NAD
   HEENT: NCAT
   CV: RRR, S1S2, no m/r/g noted by this examiner
   Chest: Dry crackles at bases B
   Abd: Soft NTND Bs+
   Ext: No edema noted by this examiner
   Labs / Radiology
   47 K/uL
   7.8 g/dL
   278 mg/dL
   1.6 mg/dL
   28 mEq/L
   5.2 mEq/L
   46 mg/dL
   102 mEq/L
   136 mEq/L
   24.6 %
   2.5 K/uL
        [image002.jpg]  Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
                             [**2184-4-13**]  10:04 AM
                             [**2184-4-13**]  04:07 PM
                             [**2184-4-14**]  03:50 AM
                             [**2184-4-14**]  07:21 PM
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
   WBC
   2.9
   6.1
   4.4
   2.5
   Hct
   25.3
   26.7
   25.1
   24.6
   Plt
   62
   62
   42
   47
   Cr
   1.3
   1.3
   1.4
   1.3
   1.4
   1.6
   TropT
   <0.01
   TCO2
   31
   33
   31
   Glucose
   299
   206
   300
   115
   102
   278
   Other labs:
   FK506 (Tacrolimus level) pending
   UA pending
   Imaging: No new imaging.
   Microbiology:
   [**4-17**] Urine cx pending
   [**4-16**] Stool OP pending
   [**4-10**] Sputum legionella, PCP [**Name Initial (PRE) 365**]; sputum cx contaminated with OP
   flora
   Assessment and Plan
   52M h/o AML, day +143 s/p cord blood transplant, c/b ARDS [**2-14**]
   cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing hypoxemia [**2-14**] BOOP.
   # Hypoxic respiratory failure:  Per CT chest, likely [**2-14**] BOOP with
   possible cardiogenic component.
   - Methylprednisolone 125mg 125 mg Q6H
   - f/u strongyloides OP
   # CV:  Medical mgt with metoprolol ASA 81mg PO QOD, metoprolol 125mg PO
   TID
   - Ischemia:  Likely unstable angina.  CP with no EKG changes.  ASA 81mg
   PO QOD, nitro paste.  Consider NIPPV if chest pain persistent,
   accelerating, to relieve WOB.
   - Rate: Metoprolol 125mg PO TID
   - Pump: Given increase in creatinine, allow autodiuresis.  Holding ACEI
   given interaction with Tacrolimus in worsening renal fxn, and ?role in
   aplastic anemia
    # ID:  Acyclovir, voriconazole, atovaquone ppx.  Less likely active
   contributor to current lung fxn given BOOP on CT chest.
   - Enterococcus UTI: Pending repeat UA, cx
   - Pending galactomannan, B-glucan
   - Pending strongyloides O+P
   # ARF:  Cr 1.6, baseline 1.3-1.5.
   - ?Nephritis: AntiGBM, ANCA, [**Doctor First Name 1205**] pending
   # AML: Tacrolimus currently being held, BMT will monitor levels.
   - Tacrolimus, mycophenylate mofetil
   - Ppx: Acyclovir, voriconazole, atrovaquone
   - Review BMT recs
   # Thrombocytopenia:  STABLE.  Transfuse plts >20 unless actively
   bleeding
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:  Not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-04-17 11:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Some chest pain yesterday which seemed to respond to morphine and nitro
   Started treatment for BOOP with solumedrol
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2184-4-16**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-17**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 87 (74 - 94) bpm
   BP: 143/89(100) {115/66(80) - 144/89(100)} mmHg
   RR: 19 (9 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    815 mL
                                                                    113 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                    115 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    725 mL
   Urine:
                                                                  1,610 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -795 mL
                                                                   -612 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: 7.43/45/174/28/5
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress. Sitting up, on face mask,
   talking
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : dry/fine at bases R>L)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person and place, Movement: Not assessed,
   Tone: Normal
   Labs / Radiology
   7.8 g/dL
   47 K/uL
   278 mg/dL
   1.6 mg/dL
   28 mEq/L
   5.2 mEq/L
   46 mg/dL
   102 mEq/L
   136 mEq/L
   24.6 %
   2.5 K/uL
        [image002.jpg]
                             [**2184-4-13**]  10:04 AM
                             [**2184-4-13**]  04:07 PM
                             [**2184-4-14**]  03:50 AM
                             [**2184-4-14**]  07:21 PM
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
   WBC
   2.9
   6.1
   4.4
   2.5
   Hct
   25.3
   26.7
   25.1
   24.6
   Plt
   62
   62
   42
   47
   Cr
   1.3
   1.3
   1.4
   1.3
   1.4
   1.6
   TropT
   <0.01
   TCO2
   31
   33
   31
   Glucose
   299
   206
   300
   115
   102
   278
   Other labs: PT / PTT / INR:13.7/30.3/1.2, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:62.1 %, Lymph:24.4 %,
   Mono:11.0 %, Eos:2.4 %, Lactic Acid:1.7 mmol/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Microbiology: Stool O and P: pending
   Urine: enterococcus.
   Assessment and Plan
   Assessment and Plan
   52-year-old male with AML s/p myeloablative unrelated cord blood
   transplant now approximately day +150.  He comes to the ICU with
   dyspnea, hypoxemia, and radiographic infiltrates.  We are now treating
   for BOOP.  No worse today (but also not significantly improved)
   Hypoxemia: Likely both BOOP (on high dose steroids) possibly [**2-14**] GVHD
   and some contribution from underlying CAD (see below). Would expect to
   see some improvement in the next day or two if this is BOOP
   reviewed his films at radiology conference (consensus that this is
   consistent with BOOP).
   NIPPV may be helpful from a work of breathing standpoint if he has
   increased WOB
   Infection: Ruling out strongyloides with O and P (pending)
   -enterococcus urine: repeat UA/culture (not treating). (took three days
   for urine to grow out)
   Cardiovascular: Goal even rising BUN/Cr. Cont Metop, nitro paste and
   daily ECGs. QOD ASA. Appreciate cardiology input, worried that the
   increase work of bretahing is leading to increased myocardial demand )
   with poor reserve.
   Holding ACE right now (renal failure). Rate control much improved.
   Renal: slowly increasing BUN/Cr. Hold on additional diuresis (although
   he seemed to diurese on his own).  Also ruling out lung-renal (pending)
   Follow daily cr
   AML: following up with tacro levels (via Dr. [**First Name (STitle) 1422**]
   Other issues as detailed in ICU resident note.
   Mr. [**Known lastname 1414**] remains critically ill.  Total time: 35 minutes
   ICU Care
   Nutrition:
   Comments: PO diet (cardiac diet)
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments: Dr. [**First Name8 (NamePattern2) 1980**] [**Last Name (NamePattern1) 1162**] updated patient and his
   wife.
   [**Name (NI) 66**] status:  FULL
   Disposition :ICU
   Total time spent 45:

2184-04-18 06:45:00 Physician Resident Progress Note
Chief Complaint: sob, hypoxia
   24 Hour Events:
   - CP: Standing nitro paste; still no EKG changes noted
   - Metoprolol changed from 125mg TID to 100 mg PO QID
   S:
   Sleeping well
   Still SOB
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Voriconazole
   Acyclovir
   Atovaquone
   Infusions:
   Other ICU medications:
   Other medications:
   SSI
   Sucralfate qhs
   Metoprolol 100 mg qid
   Methylprednisolone 125 mg qid
   Asa 81 qod
   Ipatroprium
   Montelukast
   Mycofenolate mofetil
   Ursodiol
   Folic acid
   Nitro paste
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-18**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 79 (72 - 94) bpm
   BP: 132/83(95) {115/64(75) - 143/89(100)} mmHg
   RR: 23 (13 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,040 mL
                                                                     67 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    275 mL
   Urine:
                                                                  1,705 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -665 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 70%
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   41 K/uL
   7.4 g/dL
   334 mg/dL
   1.6 mg/dL
   26 mEq/L
   5.2 mEq/L
   56 mg/dL
   104 mEq/L
   138 mEq/L
   23.6 %
   3.7 K/uL
        [image002.jpg]
                             [**2184-4-14**]  03:50 AM
                             [**2184-4-14**]  07:21 PM
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
   WBC
   2.9
   6.1
   4.4
   2.5
   3.4
   3.7
   Hct
   25.3
   26.7
   25.1
   24.6
   22.5
   23.6
   Plt
   62
   62
   42
   47
   29
   41
   Cr
   1.3
   1.4
   1.3
   1.4
   1.6
   1.6
   1.6
   TropT
   <0.01
   TCO2
   33
   31
   Glucose
   [**Telephone/Fax (3) 1990**]02
   278
   339
   334
   Other labs: PT / PTT / INR:13.7/30.3/1.2, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:62.1 %, Lymph:24.4 %,
   Mono:11.0 %, Eos:2.4 %, Lactic Acid:1.7 mmol/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Micro
   Urine culture [**4-14**] Vre
   U Cx repeat pending [**4-17**]
   CXR
   CXr with some improvement in bilateral infiltrates
   Assessment and Plan
   52M h/o AML, day +143 s/p cord blood transplant, c/b ARDS [**2-14**]
   cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing hypoxemia [**2-14**] BOOP.
   # Hypoxic respiratory failure:
   Per CT chest, likely [**2-14**] BOOP with possible cardiogenic component.
   Also w/ desats overnight-> ? OSA overlap.
   - Methylprednisolone 125mg 125 mg Q6H
   - f/u strongyloides OP (to ensure that does not develop hyper
   strongyloides syndrome)
   - CPAP trial, auto settings overnight
   - CXR
   - PPI for steroid ppx, insulin; sleeping well, watch for needing sleep
   meds
   # CV:
   Medical mgt with metoprolol ASA 81mg PO QOD, metoprolol 100 mg PO QID.
   Still w/ chest discomfort overnight.
   - Ischemia:  Likely unstable angina.  ? GI / GERD component also.  CP
   with no EKG changes.  ASA 81mg PO QOD, nitro paste.
   Medical optimization at this point given complicating co-morbidities.
   Sucralfate QHS
   Rate control: Metoprolol 100 mg PO QID.  Will discuss further HR
   control w/ cards
   Pump: Given increase in creatinine, allow autodiuresis.  Holding ACEI
   given interaction with Tacrolimus in worsening renal fxn, and ?role in
   aplastic anemia
    # ID
   Acyclovir (SHV), voriconazole (fungal), atovaquone (PCP) ppx.  Less
   likely active contributor to current lung fxn given BOOP on CT chest.
   - Enterococcus UTI.  Slow growth on urine culture.  Doubt if real
   specimen: Pending repeat UA, cx
   - Pending galactomannan, B-glucan for possible fungal overlap
   - Pending strongyloides O+P, to rule out strongyloides, ensure safety
   of dosing steroids
   - repeat sputum cultre
   # ENDOCRINE
   With INCREASED insulin requirement w/ steroids.
   Start glargine 10 units q AM now.
   -          SSI additional.
   -          Adjust as steroid dose tapers
   # ARF:  Cr 1.6, baseline 1.3-1.5.
   Likely tacro induced w/ high levels.
   Per BMT, immunosuppressed patients do not mount antibody responses
   reliably, so negative testing for [**Doctor First Name 1205**], ant GBM, ANCA are not reliable.
   -          Trend
   -          Holding Tacro, following levels
   # AML: Tacrolimus currently being held, BMT will monitor levels.
   - Tacrolimus, mycophenylate mofetil
   - Ppx: Acyclovir, voriconazole, atrovaquone
   - Review BMT recs
   # Thrombocytopenia:  STABLE.  Transfuse plts >20 unless actively
   bleeding
   ICU Care
   Nutrition:
   Bmt low sodium
   Glycemic Control:  ssi, tightened for lunch / dinner
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: none
   Stress ulcer: lansoprazole
   VAP:  na
   Comments:
   Communication:  Comments: family, wife
   [**Name (NI) 66**] status: full
   Disposition: ICU

2184-04-18 10:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Had an additional episode of CP yesterday (at night)
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-18**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96.1
   HR: 51 (51 - 94) bpm
   BP: 122/68(81) {111/61(75) - 143/88(100)} mmHg
   RR: 21 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,040 mL
                                                                    103 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    240 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    575 mL
   Urine:
                                                                  1,705 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -665 mL
                                                                   -472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : fine at
   the bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   41 K/uL
   334 mg/dL
   1.6 mg/dL
   26 mEq/L
   5.2 mEq/L
   56 mg/dL
   104 mEq/L
   138 mEq/L
   23.6 %
   3.7 K/uL
        [image002.jpg]
                             [**2184-4-14**]  03:50 AM
                             [**2184-4-14**]  07:21 PM
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
   WBC
   2.9
   6.1
   4.4
   2.5
   3.4
   3.7
   Hct
   25.3
   26.7
   25.1
   24.6
   22.5
   23.6
   Plt
   62
   62
   42
   47
   29
   41
   Cr
   1.3
   1.4
   1.3
   1.4
   1.6
   1.6
   1.6
   TropT
   <0.01
   TCO2
   33
   31
   Glucose
   [**Telephone/Fax (3) 1990**]02
   278
   339
   334
   Other labs: PT / PTT / INR:13.7/30.3/1.2, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:62.1 %, Lymph:24.4 %,
   Mono:11.0 %, Eos:2.4 %, Lactic Acid:1.7 mmol/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR:  slightly improved aeration on the left
   Microbiology: O and P: pending
   Urine [**4-17**]: pending
   Assessment and Plan
   52-year-old male with AML s/p myeloablative unrelated cord blood
   transplant now approximately day +150.  He comes to the ICU with
   dyspnea, hypoxemia, and radiographic infiltrates.  We are now treating
   for BOOP.
   Hypoxemia: Likely both BOOP (on high dose steroids) possibly [**2-14**] GVHD
   and some contribution from underlying CAD (see below). BOOP on steroids
   day 3
   -NIPPV may be helpful from a work of breathing standpoint if he has
   increased WOB
   - [**Month (only) 60**] also have OSA (nightly desats), will trial BiPAP tonight, as this
   may cause desats and increase O2 demand causing chest pain
   Infection: Ruling out strongyloides with O and P (pending)
   -enterococcus urine: repeat UA/culture (not treating, still pending).
   (took three days for urine to grow out).
   - if produces sputum will send for stain and clx
   - cont ppx
   Cardiovascular: Goal even rising BUN/Cr. Cont Metop, nitro paste and
   daily ECGs. QOD ASA. Appreciate cardiology input, worried that the
   increase work of bretahing is leading to increased myocardial demand )
   with poor reserve.  BiPAP as above to decrease low O2 sats at night
   (possible
   -Holding ACE right now (renal failure). Rate control much improved.
   Renal: slowly increasing BUN/Cr. Hold on additional diuresis (although
   he seemed to diurese on his own).  Also ruling out lung-renal (pending)
   -Follow daily Cr (elevated at 1.6), stable. Also following tacro as
   possible etiology.
   AML: following up with tacro levels (via Dr. [**First Name (STitle) 1422**]
   -Other issues as detailed in ICU resident note.
   ICU Care
   Nutrition:
   Comments: low Na diet
   Glycemic Control:  Regular insulin sliding scale, Comments: Will add
   long acting insulin.
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments: Update with Dr. [**First Name (STitle) 1422**] this AM
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2184-04-19 07:37:00 Physician Resident Progress Note
Chief Complaint: 52 yo with h/o AML s/p cord blood transplant c/b ARDS
   [**2-14**] cyclosporine readmitted to [**Hospital Unit Name 44**] given hypoxemia due to BOOP
   24 Hour Events:
   O2 weaned
   Insulin gtt started for FS in the 500s
   Did not tolerate face mask CPAP overnight which was started for
   overnight desats
   Nasal mask at this time
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retention
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Insulin - Regular - [**2184-4-18**] 08:00 PM
   Other medications:
   Changes to medical and family history: NA
   Review of systems is unchanged from admission except as noted below
   Review of systems: NA
   Flowsheet Data as of  [**2184-4-19**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 55 (51 - 86) bpm
   BP: 136/82(96) {109/68(78) - 149/89(101)} mmHg
   RR: 23 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,738 mL
                                                                    606 mL
   PO:
                                                                  1,210 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    528 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                  1,000 mL
   Urine:
                                                                  2,530 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -792 mL
                                                                   -394 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: NAD
   CV: No murmurs
   Pulm: Clear anteriorly, dry crackles at bases R>L
   Abd: Soft, NTND, normoactive BS
   Ext: No edema, WWP
   Labs / Radiology: [**4-18**] CXR -> slight improvement in bilateral opacities
   primarly affecting the mid and lower lung zones. No large pleural
   effusions.
   36 K/uL
   8.1 g/dL
   125 mg/dL
   1.3 mg/dL
   29 mEq/L
   5.0 mEq/L
   52 mg/dL
   106 mEq/L
   139 mEq/L
   24.8 %
   4.6 K/uL
        [image002.jpg]
                             [**2184-4-14**]  07:21 PM
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
                             [**2184-4-19**]  03:32 AM
   WBC
   6.1
   4.4
   2.5
   3.4
   3.7
   4.6
   Hct
   26.7
   25.1
   24.6
   22.5
   23.6
   24.8
   Plt
   62
   42
   47
   29
   41
   36
   Cr
   1.4
   1.3
   1.4
   1.6
   1.6
   1.6
   1.3
   TropT
   <0.01
   TCO2
   33
   31
   Glucose
   300
   115
   102
   [**Telephone/Fax (3) 2002**]
   125
   Other labs: PT / PTT / INR:13.7/30.3/1.2, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:62.1 %, Lymph:24.4 %,
   Mono:11.0 %, Eos:2.4 %, Lactic Acid:1.7 mmol/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Micro:
   [**4-14**] urine cx: VRE
   [**4-17**] and [**4-18**] stool cx: NGTD
   Assessment and Plan
   Assessment and Plan
   52M h/o AML, day +144 s/p cord blood transplant, c/b ARDS [**2-14**]
   cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing hypoxemia [**2-14**] BOOP.
   # Hypoxic respiratory failure:
   Likely [**2-14**] BOOP with possible cardiogenic component.  O2 weaned
   overnight.
   - Methylprednisolone 125mg 125 mg Q6H, today is day 4
   - Strongyloides O+P x3 negative (was to ensure that does not develop
   hyperstrongyloides syndrome)
   - On NC at this time with nasal mask
   - PPI for steroid ppx, insulin; Sleeping well, watch for needing sleep
   meds
   - Patient has desats at night, did not tolerate CPAP, will try nasal
   bipap tonight to avoid demand ischemia during the night secondary to
   low oxygen sat (goal sat > or = 90%)
   - Continue current management, follow up repeat CT of chest on Friday
   for improvement (to consider wean of steroids)
   # CV:
   - Ischemia:  Likely unstable angina.  CP with no EKG changes.  ASA 81mg
   PO QOD, nitro paste. Metoprolol 100mg QID.
   Medical optimization at this point given complicating co-morbidities.
   ? GI / GERD component also.  Sucralfate QHS.
   -Rate control: Metoprolol 100 mg PO QID.  Will discuss further HR
   control w/ cards if necessary.
   -Pump: Given increase in creatinine, no further diuresis as he appears
   to be autodiuresing.  Continuing to hold ACEI at this time given
   interaction with Tacrolimus and worsening renal fxn.  Patient may
   benefit from this in the long term. Will rediscuss as renal function
   improves.
    # ID:
   Given AML and aimmunocompromised state, on Acyclovir (SHV),
   voriconazole (fungal), atovaquone (PCP) ppx.
   - Enterococcus UTI, thought to be contaminant given slow growth on
   urine culture.  Repeat Ucx contaminated. Will get sterile urine culture
   today.  If this is actual infection, will aggressively treat given
   immunocompromised.
   - Pending galactomannan, B-glucan for possible fungal overlap
   - Strongyloides O+P negative
   - Can consider repeat sputum culture, negative from [**4-10**]
   # Hyperglycemia:
   With increased insulin requirement w/ steroids.  On insulin drip
   started on [**2184-4-18**].  Also on diabetic/heart healthy/neurtropenic diet.
   - Adjust as steroid dose tapers, transition to lantus/ISS as able
   # ARF:  Cr 1.3 today, baseline 1.3-1.5.
   Likely tacro induced w/ high levels.  Per BMT, immunosuppressed
   patients do not mount antibody responses reliably, so negative testing
   for [**Doctor First Name 1205**], ant GBM, ANCA are not reliable.
   - Continue to trend.
   - Holding Tacro, following levels (6.2)
   # AML: Tacrolimus currently being held, BMT will monitor levels.
   - Tacrolimus (as above), mycophenylate mofetil
   - Ppx: Acyclovir, voriconazole, atrovaquone
   - Review BMT recs
   # Thrombocytopenia:  STABLE.  Transfuse plts >20 unless actively
   bleeding
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin drip
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Sucralfate, lansoprazole
   VAP:  Not ventilated
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: ICU level of care

2184-04-20 06:50:00 Physician Resident Progress Note
Chief Complaint: 52M h/o AML, day +148 s/p cord blood transplant, c/b
   ARDS [**2-14**] cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing hypoxemia
   [**2-14**] BOOP, now doing well with NC during the day and face mask at night
   on high dose steroids.
   24 Hour Events:
   -Tolerated NC at 5L during the day
   - No desats overnight
   - Variable FSBG during the day, was hypoglycemic requiring D50 x1 per
   protocol, insulin gtt decreased
   - OOB to chair for 2 hours which patient tolerated.
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Acyclovir - [**2184-4-19**] 08:00 PM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Dextrose 50% - [**2184-4-20**] 04:00 AM
   Other medications:
   Changes to medical and family history: NA
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels well, episode of dizziness this am, resolved
   Flowsheet Data as of  [**2184-4-20**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 50 (50 - 85) bpm
   BP: 111/58(72) {101/52(64) - 143/88(99)} mmHg
   RR: 19 (7 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,789 mL
                                                                    164 mL
   PO:
                                                                  1,250 mL
             TF:
   IVF:
                                                                    539 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    550 mL
   Urine:
                                                                  1,700 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     89 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Gen: NAD
   HEENT: NCAT, face mask in place
   CV: RRR
   Pulm: dry crackles at bilateral bases
   Abd: Soft, NTND, nabs
   Ext: WWP
   Labs / Radiology: Little change from prior
   58 K/uL
   9.4 g/dL
   52 mg/dL
   1.1 mg/dL
   29 mEq/L
   5.3 mEq/L
   49 mg/dL
   110 mEq/L
   143 mEq/L
   28.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
                             [**2184-4-19**]  03:32 AM
                             [**2184-4-20**]  03:42 AM
   WBC
   6.1
   4.4
   2.5
   3.4
   3.7
   4.6
   11.6
   Hct
   26.7
   25.1
   24.6
   22.5
   23.6
   24.8
   28.2
   Plt
   62
   42
   47
   29
   41
   36
   58
   Cr
   1.3
   1.4
   1.6
   1.6
   1.6
   1.3
   1.1
   TropT
   <0.01
   TCO2
   33
   31
   Glucose
   115
   102
   278
   [**Telephone/Fax (3) 2025**]
   52
   Other labs: PT / PTT / INR:13.7/30.3/1.2, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:62.1 %, Lymph:24.4 %,
   Mono:11.0 %, Eos:2.4 %, Lactic Acid:1.7 mmol/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Micro:
   Urine cx pending from [**4-19**]
   Stronglyoides O+P negative x3
   Assessment and Plan
   Assessment and Plan: 52M h/o AML, day +148 s/p cord blood transplant,
   c/b ARDS [**2-14**] cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing
   hypoxemia [**2-14**] BOOP.
    # Hypoxic respiratory failure:
   Likely [**2-14**] BOOP with possible cardiogenic component.  O2 weaned
   overnight.
   - Methylprednisolone 125mg Q6H, today is day 5, given moderate clinical
   improvement and concern over opportunistic infections in the setting of
   AML and high dose steroids, will change to 60mg PO prednisone daily.
   Will continue to reevaluate and titrate down as tolerated.
   - Strongyloides O+P x3 negative (was to ensure that does not develop
   hyperstrongyloides syndrome)
   - Strongyloides Ab (IgG) pending, will follow though low clinical use
   in the setting of immunocompromised state.
   - Patient tolerated NC at 5L over the day yesterday with no desats
   overnight, did not require nasal BiPap; however, this can be used
   overnight if needed as patient did not tolerate CPAP given concern for
   demand ischemia during the night secondary to low oxygen sat (goal > or
   = 90%) .
   - PPI for steroid ppx, insulin drip
   - I/O goal even to slight negative, will give lasix if > or =500cc
   positive.
   - Continue current management, follow up repeat CT of chest on Thursday
   night for improvement (to consider wean of steroids).  Will follow
   daily CXR and oxygen requirement.  If no improvement, can consider
   bronch for further evaluation.
   # CV:
   - Ischemia:  Likely unstable angina.  CP with no EKG changes.  ASA 81mg
   PO QOD, nitro paste. Metoprolol 100mg QID.  Daily ECG.
   Medical optimization at this point given complicating co-morbidities.
   ? GI / GERD component also.  Sucralfate QHS.
   -Rate control: Metoprolol 100 mg PO QID.  Patient has been bradycardic
   overnight for unclear reason, not symptomatic. [**Month (only) 60**] be secondary to
   disordered breathing overnight.  AM Lopressor held. Will continue to
   monitor on tele. Continue Lopressor holding parameters.
   -Pump: Given increase in creatinine, no further diuresis; he appears to
   be autodiuresing.  Continuing to hold ACEI at this time given
   interaction with Tacrolimus and poor renal fxn.  Patient may benefit
   from this in the long term. Will rediscuss as renal function improves.
   # ID:
   Given AML and immunocompromised state, on Acyclovir (SHV), voriconazole
   (fungal), atovaquone (PCP) ppx.  WBC increased today, may be steroid
   induced, though a bit late for steroid effect. Also entire CBC
   elevated.
   - Recheck CBC with diff showing no bands and WBC back to normal,
   continue to monitor.
   - Enterococcus UTI, thought to be contaminant given slow growth on
   urine culture.  Repeat Ucx contaminated. Ucx from [**2184-4-19**] pending at
   this time.  If this is actual infection, will aggressively treat given
   he is immunocompromised.
   - Pending galactomannan, B-glucan negative.
   - Strongyloides O+P negative, Ab pending
   - CMV viral load ordered overnight along with EBV and CMV PCR.
   - Will recheck B glucan and galactomannan on [**4-21**] as per ID
   # Hyperglycemia:
   With increased insulin requirement w/ steroids.  On insulin drip
   started on [**2184-4-18**].  Also on diabetic/heart healthy/neurtropenic diet.
   Was hypoglycemic overnight requiring D50 per protocol for BS <60.
   - Will continue to monitor q1H FSBG.  Adjust as per FS and with
   decreased steroid dose, transition to lantus/ISS as able
   # ARF:
   Stable. Creatinine 1.1 today, baseline 1.3-1.5.
   Likely tacro induced w/ high levels.
   - Continue to trend.
   - Holding Tacro until level <5 per BMT, following levels, 5.0 this am,
   will discuss with BMT
   # AML: STABLE. Tacrolimus currently being held, BMT will monitor
   levels.
   - Tacrolimus (as above), mycophenylate mofetil
   - Ppx: Acyclovir, voriconazole, atrovaquone
   - Review BMT recs
   # Thrombocytopenia:  STABLE.  Transfuse plts >20 unless actively
   bleeding
   ICU Care
   Nutrition:
   Glycemic Control: insulin gtt
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  sucralfate, lanzoprazole
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: ICU LOC

2184-04-20 12:09:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated NC oxygen.
   No desats overnight.
   Did not trial BiPAP with nasal pillows.
   Autodiuresed.
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Acyclovir - [**2184-4-19**] 08:00 PM
   Infusions:
   Insulin - Regular - 4.5 units/hour
   Other ICU medications:
   Dextrose 50% - [**2184-4-20**] 04:00 AM
   Lansoprazole (Prevacid) - [**2184-4-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: feels well
   Neurologic: episode of dizziness this morning
   Flowsheet Data as of  [**2184-4-20**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 62 (50 - 85) bpm
   BP: 126/72(85) {101/52(64) - 143/88(99)} mmHg
   RR: 24 (7 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,789 mL
                                                                    477 mL
   PO:
                                                                  1,250 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    539 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    975 mL
   Urine:
                                                                  1,700 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     89 mL
                                                                   -498 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine, bilateral, improved since yesterday, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   58 K/uL
   52 mg/dL
   1.1 mg/dL
   29 mEq/L
   5.3 mEq/L
   49 mg/dL
   110 mEq/L
   143 mEq/L
   28.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2184-4-15**]  03:53 AM
                             [**2184-4-16**]  03:38 AM
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
                             [**2184-4-19**]  03:32 AM
                             [**2184-4-20**]  03:42 AM
   WBC
   6.1
   4.4
   2.5
   3.4
   3.7
   4.6
   11.6
   Hct
   26.7
   25.1
   24.6
   22.5
   23.6
   24.8
   28.2
   Plt
   62
   42
   47
   29
   41
   36
   58
   Cr
   1.3
   1.4
   1.6
   1.6
   1.6
   1.3
   1.1
   TropT
   <0.01
   TCO2
   33
   31
   Glucose
   115
   102
   278
   [**Telephone/Fax (3) 2025**]
   52
   Other labs: PT / PTT / INR:13.7/30.3/1.2, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:62.1 %, Lymph:24.4 %,
   Mono:11.0 %, Eos:2.4 %, Lactic Acid:1.7 mmol/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Microbiology: O&P negative x 3 (stool).
   Strongyloides Ab still pending.
   Assessment and Plan
   Mr. [**Known lastname 1414**] was seen and examined with the ICU team, and I was
   physically present for key portions of the services rendered.  The ICU
   team
s note reflects my input, with these comments:
   52-year-old male with AML s/p myeloablative unrelated cord blood
   transplant now approximately day +150.  Remote h/o sarcoidosis, unclear
   if it involved the lungs. Respiratory decompensation- initially
   occurred 3 weeks ago- requiring MICU/intubation- cyclosporin stopped
   and treated with Abx. Now developed hypoxemic respiratory failure, and
   CT demonstrated dense consolidation, multifocal, with air bronchograms.
   Empirically treating for BOOP, today is day 4 of high dose steroids.
   Respiratory failure:
   Clinically and radiographically improving on high dose steroids empiric
   for BOOP.
   Hypoxemia: Likely both BOOP (on high dose steroids) possibly [**2-14**] GVHD
   Decrease corticosteroids to prednisone 60mg [**Hospital1 **] (has received 4 days of
   solumedrol 125 IV q6).
   Repeat HRCT Thursday night for discussion on rounds Friday.
   Question of possible OSA (nightly desats), did not tolerate BiPAP. Will
   try nasal pillows as may be less uncomfortable than the full face
   BiPAP.
   Cardiac: Unstable angina, known CAD by MRI
   Cont Metop, nitro paste and daily ECGs. QOD ASA. ACE d/c given renal
   failure.
   Infection: Ruling out strongyloides with O and P (pending but unlikely)
   WBC inc. Late to attribute just to high dose steroids.
   -enterococcus urine: repeat UA/culture (not treating, still pending).
   (took three days for urine to grow out).
   - cont ppx
   Renal: slowly increasing BUN/Cr. Likely tacro. Goal fluid even.  Also
   ruling out lung-renal (pending).
    AML: following up with tacro levels, held for now (via BMT recs)
    Thrombocytopenia. Improving.
    Hyperglycemia. On insulin drip.
   Other issues as detailed in ICU team note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2184-04-21 07:30:00 Physician Resident Progress Note
Chief Complaint: 52 yo M with h/o AML s/p cord blood transplant c/b
   ARDS [**2-14**] cyclosporine, admitted to [**Hospital Unit Name 44**] given increasing hypoxemia [**2-14**]
   BOOP now on high dose steroid wean.
   24 Hour Events:
   -changed steroids to 60mg [**Hospital1 **] prednisone per BMT recs
   -repeat CBC showed WBC return to baseline, likely elevation was
   spurious
   -increasing insulin requirement during day, FSBS 91-264 today, mostly
   >200,  required 12.5 units per hour with improved control. Hypoglycemic
   to 62 overnight, off gtt for now.
   -Sats 88-98% on 50% FiO2 face mask.  Desat to 85% on 5LNC
 switched to
   face mask.  Upon exertion, pt desats to 80
s however recovers quickly.
   Currently on 50% FiO2 with cool mist face mask
   -fluid even
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Acyclovir - [**2184-4-19**] 08:00 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2184-4-20**] 08:00 AM
   Dextrose 50% - [**2184-4-21**] 01:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-21**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 55 (41 - 81) bpm
   BP: 138/85(97) {95/57(66) - 140/85(97)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  1,722 mL
                                                                    398 mL
   PO:
                                                                  1,220 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    452 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    660 mL
   Urine:
                                                                  1,525 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    197 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, face mask in place
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : dry, bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: pneumoboots in place
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   41 K/uL
   8.6 g/dL
   79 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.7 mEq/L
   47 mg/dL
   107 mEq/L
   138 mEq/L
   26.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
                             [**2184-4-19**]  03:32 AM
                             [**2184-4-20**]  03:42 AM
                             [**2184-4-20**]  01:27 PM
                             [**2184-4-21**]  04:49 AM
   WBC
   2.5
   3.4
   3.7
   4.6
   11.6
   5.1
   5.0
   Hct
   24.6
   22.5
   23.6
   24.8
   28.2
   27.4
   26.3
   Plt
   47
   29
   41
   36
   58
   51
   41
   Cr
   1.6
   1.6
   1.6
   1.3
   1.1
   1.0
   TropT
   <0.01
   TCO2
   33
   31
   Glucose
   [**Telephone/Fax (3) 2042**]25
   52
   79
   Other labs: PT / PTT / INR:12.5/24.3/1.1, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:79.5 %, Lymph:12.9 %, Mono:6.3
   %, Eos:1.1 %, Lactic Acid:1.7 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR [**2184-4-20**]: little change from prior
   Microbiology: CMV viral load pending
   Ucx [**4-19**]: contaminated
   Stool O+P neg x3
   Assessment and Plan
   Assessment and Plan: 52M h/o AML, day +148 s/p cord blood transplant,
   c/b ARDS [**2-14**] cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing
   hypoxemia [**2-14**] BOOP.
   # Hypoxic respiratory failure:
   Likely [**2-14**] BOOP with possible cardiogenic component.  On 5-6L NC during
   the day yesterday, dropped sats to mid-80s with improvement on 50% FM
   with sat range over the day from 89-100%.  No CP or SOB.
   - Methylprednisolone 125mg Q6H for 5 days, given moderate clinical
   improvement and concern over opportunistic infections in the setting of
   AML and high dose steroids, changed to 60mg PO prednisone daily. Will
   continue to reevaluate and titrate down as tolerated.
   - Strongyloides O+P x3 negative (was to ensure that does not develop
   hyperstrongyloides syndrome)
   - Strongyloides Ab (IgG) pending, will follow though low clinical use
   in the setting of immunocompromised state.
   - No desats overnight. No nasal bipap as he tolerated the face mask at
   50%.  This can however be used overnight if needed as patient did not
   tolerate CPAP given concern for demand ischemia during the night
   secondary to low oxygen sat (goal > or = 90%) .
   - PPI for steroid ppx, insulin drip. Will calculate insulin requirement
   today as he was requiring up to 12.5u/hr of insulin gtt during the day
   yesterday.
   - I/O goal even to slight negative, will give lasix if > or =500cc
   positive.
   - Continue current management, follow up repeat CT of chest on Thursday
   night for improvement (to consider wean of steroids).  Will follow
   daily CXR and oxygen requirement.  If no improvement, can consider
   bronch for further evaluation.
   # CV:
   - Ischemia:  Likely unstable angina.  CP with no EKG changes.  ASA 81mg
   PO QOD, nitro paste. Metoprolol 100mg QID.  Daily ECG.
   Medical optimization at this point given complicating co-morbidities.
   ? GI / GERD component also.  Sucralfate QHS.
   -Rate control: Metoprolol 100 mg PO QID.  Patient has been bradycardic
   overnight for unclear reason, not symptomatic. [**Month (only) 60**] be secondary to
   disordered breathing overnight.  AM Lopressor held. Will continue to
   monitor on tele. Continue Lopressor holding parameters.
   -Pump: Given increase in creatinine, no further diuresis; he appears to
   be autodiuresing.  Continuing to hold ACEI at this time given
   interaction with Tacrolimus and poor renal fxn.  Patient may benefit
   from this in the long term. Will rediscuss as renal function improves.
   # ID:
   Given AML and immunocompromised state, on Acyclovir (SHV), voriconazole
   (fungal), atovaquone (PCP) ppx.
   - Enterococcus UTI, thought to be contaminant given slow growth on
   urine culture.  Repeat Ucx x2 contaminated.  Will continue to monitor
   clinically and resend if indicated. If this is actual infection, will
   aggressively treat given he is immunocompromised.
   - Pending galactomannan, B-glucan negative.
   - Strongyloides O+P negative, Ab pending
   - CMV viral load ordered overnight along with EBV and CMV PCR.
   - Will recheck B glucan and galactomannan on [**4-21**], today, as per ID
   # Hyperglycemia:
   Varible blood sugars over the day yesterday. On insulin gtt given hi
   FSBG on high dose steroids started on [**2184-4-18**].  Also on diabetic/heart
   healthy/neurtropenic diet. Was hypoglycemic overnight requiring D50 x1.
   - Will continue to monitor q1H FSBG.  Adjust as per FS and with
   decreased steroid dose, transition to lantus/ISS as able
   # ARF:
   Stable. Creatinine 1.1 today, baseline 1.3-1.5.
   Likely tacro induced w/ high levels.
   - Continue to trend.
   - Holding Tacro until level <5 per BMT, following levels, pending this
   am, will discuss with BMT
   # AML: STABLE. Tacrolimus currently being held, BMT will monitor
   levels.
   - Tacrolimus (as above), mycophenylate mofetil
   - Ppx: Acyclovir, voriconazole, atrovaquone
   - Review BMT recs
   # Thrombocytopenia:  STABLE.  Transfuse plts >20 unless actively
   bleeding
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin gtt
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate and pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:ICU

2184-04-21 11:29:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52-year-old male with AML s/p myeloablative unrelated cord blood
   transplant now approximately day +150.  Remote h/o sarcoidosis, unclear
   if it involved the lungs. Respiratory decompensation- initially
   occurred 3-4 weeks ago- requiring MICU/intubation- cyclosporin stopped
   and treated with Abx. Now developed hypoxemic respiratory failure, and
   CT demonstrated dense consolidation, multifocal, with air bronchograms.
   Empirically treating for BOOP, received 4d of high dose steroids.
   24 Hour Events:
   Changed steroids to Prednisone 60mg [**Hospital1 **].
   Desat with exertion to low 80s but on NC with adequate sats.
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Acyclovir - [**2184-4-19**] 08:00 PM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Dextrose 50% - [**2184-4-21**] 01:40 AM
   Other medications:
   see Dr[**Name (NI) 2044**] note for meds.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: hungry, generally feeling well
   Respiratory: improved dyspnea
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2184-4-21**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 76 (55 - 81) bpm
   BP: 124/70(83) {95/57(66) - 138/85(97)} mmHg
   RR: 20 (17 - 31) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,722 mL
                                                                    419 mL
   PO:
                                                                  1,220 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    452 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,180 mL
   Urine:
                                                                  1,525 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    197 mL
                                                                   -761 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Looks
   comfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat bases, no sig change since yesterday)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): all, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   41 K/uL
   79 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.7 mEq/L
   47 mg/dL
   107 mEq/L
   138 mEq/L
   26.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2184-4-16**]  02:49 PM
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
                             [**2184-4-19**]  03:32 AM
                             [**2184-4-20**]  03:42 AM
                             [**2184-4-20**]  01:27 PM
                             [**2184-4-21**]  04:49 AM
   WBC
   2.5
   3.4
   3.7
   4.6
   11.6
   5.1
   5.0
   Hct
   24.6
   22.5
   23.6
   24.8
   28.2
   27.4
   26.3
   Plt
   47
   29
   41
   36
   58
   51
   41
   Cr
   1.6
   1.6
   1.6
   1.3
   1.1
   1.0
   TropT
   <0.01
   TCO2
   33
   31
   Glucose
   [**Telephone/Fax (3) 2042**]25
   52
   79
   Other labs: PT / PTT / INR:12.5/24.3/1.1, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:79.5 %, Lymph:12.9 %, Mono:6.3
   %, Eos:1.1 %, Lactic Acid:1.7 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1414**] was seen and examined with the ICU team, and I was
   physically present for key portions of the services rendered.  The ICU
   team
s note reflects my input, with these comments:
   Key issue is hypoxemic respiratory failure:
          Clinically and radiographically improving on high dose
   steroids empiric for BOOP.
          Continue prednisone 60mg [**Hospital1 **] (received 4 days of solumedrol
   125 IV q6).
          CT probably unnecessary given CXR improvement and improved
   hypoxemia.
   DM on insulin drip, still at relatively high doses. Will transition to
   long-acting insulin and cover with ISS.
   Other issues as detailed in ICU team note.
   Will remain in MICU for continued unstable oxygenation (reported much
   better overnight but 91% on FM while writing this note) as well as
   continued IV insulin. Insulin needs will decrease as we decrease
   steroid dose.
   ICU Care
   Nutrition:
   Comments: PO diet.
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: Plan for transfer to Onc floor when off insulin
   drip.
   Code status: Full code
   Disposition :ICU
   Total time spent:

2184-04-22 14:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Acyclovir - [**2184-4-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-4-22**] 02:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 75 (54 - 95) bpm
   BP: 130/85(95) {109/57(76) - 147/85(99)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  3,056 mL
                                                                    430 mL
   PO:
                                                                  2,870 mL
                                                                    430 mL
   TF:
   IVF:
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                  1,700 mL
   Urine:
                                                                  1,920 mL
                                                                  1,400 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                  1,136 mL
                                                                 -1,270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, face mask in place
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Respiratory / Chest: (Breath Sounds: Crackles : dry, bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: pneumoboots in place
   Labs / Radiology
   46 K/uL
   8.2 g/dL
   248 mg/dL
   1.1 mg/dL
   26 mEq/L
   5.7 mEq/L
   51 mg/dL
   105 mEq/L
   138 mEq/L
   25.3 %
   5.5 K/uL
        [image002.jpg]
                             [**2184-4-16**]  02:56 PM
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
                             [**2184-4-19**]  03:32 AM
                             [**2184-4-20**]  03:42 AM
                             [**2184-4-20**]  01:27 PM
                             [**2184-4-21**]  04:49 AM
                             [**2184-4-22**]  05:46 AM
   WBC
   2.5
   3.4
   3.7
   4.6
   11.6
   5.1
   5.0
   5.5
   Hct
   24.6
   22.5
   23.6
   24.8
   28.2
   27.4
   26.3
   25.3
   Plt
   47
   29
   41
   36
   58
   51
   41
   46
   Cr
   1.6
   1.6
   1.6
   1.3
   1.1
   1.0
   1.1
   TCO2
   33
   31
   Glucose
   [**Telephone/Fax (3) 2042**]25
   52
   79
   248
   Other labs: PT / PTT / INR:12.5/24.3/1.1, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:79.5 %, Lymph:12.9 %, Mono:6.3
   %, Eos:1.1 %, Lactic Acid:1.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR [**4-22**]:
   As compared to the previous radiograph from [**2184-4-21**], there
   are no relevant radiographic changes. The extent of the moderate
   cardiomegaly is unchanged. The moderate parenchymal opacities in both
   lungs are also unchanged in extent and distribution. The tip of the
   double-lumen central venous access line left is still pointing at the
   lateral wall of the superior vena cava. There is no evidence of pleural
   effusions. In the interval, no new focal parenchymal opacities have
   appeared.
   Assessment and Plan
   Assessment and Plan: 52M h/o AML, day +148 s/p cord blood transplant,
   c/b ARDS [**2-14**] cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing
   hypoxemia [**2-14**] BOOP.
   # Hypoxic respiratory failure:
   Likely [**2-14**] BOOP with possible cardiogenic component.  On 4-5L NC
   yesterday, desated overnight to 85% requiring 70% aerosol face mask.
   Continues to desat to 80s with minimal exertion. Hasn
t tolerated NIPPV
   in past due to sensation of claustrophobia.
   -Continue steroids for now, decreasing to 60mg QAM and 30mg tonight
   then to 60mg daily tomorrow.
   -Continue 02 supplementation, weaning as tolerated
   -Possible component of sleep disordered breathing at night leading to
   overnight bradycardia, desat. Will have trial of nasal CPAP/prong CPAP
   tonight.
   -Strongyloides negative
   -Goal I/O, even
   -no plans for CT chest at present
   # Hyperglycemia: Off insulin gtt, FSBS 132-349 overnight.
   - increased lantus to 60 daily, continue ISS plus standing humolog with
   meals. Monitor closely for hypoglycemia while tapering steroids.
   #Hyperkalemia: Likely due to increased intake and hyperglycemia.
   -Kayexelate today, repeat K
   -manage hyperglycemia as above
   -continue to monitor
   # CV:  Had episdode of nausea/diaphoresis during ICU stay, non-specific
   EKG changes, ruled out.  Overnight bradycardic
   - Ischemia:  Likely unstable angina.  CP with no EKG changes.  ASA 81mg
   PO QOD, nitro paste. [**Hospital **]
   Medical optimization at this point given complicating co-morbidities.
   ? GI / GERD component also.  Sucralfate QHS.
   -Rate control: Metoprolol 100 mg PO QID.  Bradycardia overnight has not
   been symptomatic. [**Month (only) 60**] be secondary to disordered breathing overnight.
   Decrease BB to TID
   -Pump: Given increase in creatinine, no further diuresis; he appears to
   be autodiuresing.  Continuing to hold ACEI at this time given
   interaction with Tacrolimus and poor renal fxn.  Patient may benefit
   from this in the long term. Will rediscuss as renal function improves.
   # ID:
   Given AML and immunocompromised state, on Acyclovir (SHV), voriconazole
   (fungal), atovaquone (PCP) ppx.
   - Enterococcus UTI, thought to be contaminant given slow growth on
   urine culture.  Repeat Ucx x2 contaminated.  Will continue to monitor
   clinically and resend if indicated. If this is actual infection, will
   aggressively treat given he is immunocompromised.
   - Pending galactomannan, B-glucan negative.
   # ARF: Stable and improved.  Baseline 1.3-1.5.
   Likely tacro induced w/ high levels.
   - Continue to trend.
   # AML: STABLE. Tacrolimus currently being held, per BMT, as levels now
   below 5, no need to continue to monitor levels. - Tacrolimus (as
   above), mycophenylate mofetil
   - Ppx: Acyclovir, voriconazole, atrovaquone
   - Review BMT recs
   # Thrombocytopenia:  STABLE.  Transfuse plts >20 unless actively
   bleeding
   ICU Care
   Nutrition: PO
   Glycemic Control: off insulin gtt, on regimen as above
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: lansoprazole, sucralfate
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU today, CPAP trial overnight, if tolerates call out to
   floor in am.
   ------ Protected Section ------
   Mr. [**Known lastname 1414**] was seen and examined with the ICU team, and I was
   physically present for key portions of the services rendered. No sig
   changes to PMH, SH, FH, ROS since the admit note, which I reviewed,
   except for much improved resp function. Minimal dry cough, no
   significant dyspnea at rest. Good appetite.
   The ICU team
s note reflects my input, with these comments:
   Key issue is hypoxemic respiratory failure:
          Clinically and radiographically improving on high dose
   steroids empiric for BOOP. Continues to have periods of severe
   hypoxemia, particularly with any exertion.
          Tapering prednisone as outlined above. Will maintain on
   prednisone 60mg qd after today.
   Hyperglycemia- off insulin drip, still needing adjusting of long-acting
   insulin and cover with ISS.
   Other issues as detailed in ICU team note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2184-4-22**] 16:06 ------

2184-04-23 07:36:00 Physician Resident Progress Note
Chief Complaint:
   52 yo M with h/o AML s/p cord blood transplant c/b ARDS [**2-14**]
   cyclosporine, admitted to [**Hospital Unit Name 44**] given increasing hypoxemia [**2-14**] BOOP now
   on high dose steroid wean.
   24 Hour Events:
   - good UOP. was >-1L by 10 pm (on his own)
   - K improved after kayexalate to 4.4
   - did not tolerate nasal bipap- used for 2 hours, couldn't sleep.  sats
   were still in the low 90s with it on. Did not desat overnight
   -Insulin increased
   -steroids decreased
   -02 sats overall improved.  Decreased to 88% on 4L with PT ambulating
   4
 to chair.  Otherwise was high 90s this am on 4-5L NC.
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Continues to endorse same LE numbness/tingling.
   Improved breathing. Slept well, although didn
t tolerate nasal cpap.
   Abd cramping and diarrhea after kayexelate.
   Flowsheet Data as of  [**2184-4-23**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 72 (59 - 93) bpm
   BP: 124/73(85) {94/46(58) - 147/94(105)} mmHg
   RR: 10 (10 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,030 mL
                                                                    150 mL
   PO:
                                                                  1,030 mL
                                                                    150 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    600 mL
   Urine:
                                                                  1,900 mL
                                                                    600 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                 -1,970 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% 4L
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, nasal cannula in place
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Respiratory / Chest: Decreased crackles, improved exursion
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: pneumoboots in place
   Labs / Radiology
   42 K/uL
   9.0 g/dL
   54 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.7 mEq/L
   45 mg/dL
   107 mEq/L
   142 mEq/L
   27.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2184-4-16**]  03:11 PM
                             [**2184-4-17**]  04:59 AM
                             [**2184-4-18**]  05:24 AM
                             [**2184-4-18**]  05:43 AM
                             [**2184-4-19**]  03:32 AM
                             [**2184-4-20**]  03:42 AM
                             [**2184-4-20**]  01:27 PM
                             [**2184-4-21**]  04:49 AM
                             [**2184-4-22**]  05:46 AM
                             [**2184-4-23**]  04:07 AM
   WBC
   2.5
   3.4
   3.7
   4.6
   11.6
   5.1
   5.0
   5.5
   10.7
   Hct
   24.6
   22.5
   23.6
   24.8
   28.2
   27.4
   26.3
   25.3
   27.8
   Plt
   47
   29
   41
   36
   58
   51
   41
   46
   42
   Cr
   1.6
   1.6
   1.6
   1.3
   1.1
   1.0
   1.1
   1.0
   TCO2
   31
   Glucose
   [**Telephone/Fax (3) 2042**]25
   52
   79
   248
   54
   Other labs: PT / PTT / INR:12.5/24.3/1.1, CK / CKMB /
   Troponin-T:[**9-14**]/<0.01, Differential-Neuts:79.5 %, Lymph:12.9 %, Mono:6.3
   %, Eos:1.1 %, Lactic Acid:1.7 mmol/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   Assessment and Plan: 52M h/o AML, day +148 s/p cord blood transplant,
   c/b ARDS [**2-14**] cyclosporine, readmitted to [**Hospital Unit Name 44**] given increasing
   hypoxemia [**2-14**] BOOP.
   # Hypoxic respiratory failure:
   Likely [**2-14**] BOOP with possible cardiogenic component.  Slowly responding
   with steroids, improved 02 overnight with less 02 requirement this
   morning, clinically improved.
   - Taper steroids to 60 mg daily for ~5 days, then continue to taper.
   - Strongyloides O+P x3 negative (was to ensure that does not develop
   hyperstrongyloides syndrome)
   - Strongyloides Ab (IgG) negative
   - No desats overnight, only tolerated CPAP for 2 hours. If desats again
   overnight will try CPAP nasal pillows.
   - PPI for steroid ppx, insulin for steroid-induced hyperglycemia.
    - I/O goal even to slight negative, diurese if >500mL positive, was
   almost 2L negative (autodiuresed)
   - No CT chest for now.  Following CXR which is the same to slightly
   improved today
   -Continue IS and OOB today.
   # Hyperglycemia:
   In setting of steroid use.  Pt not diabetic. Had requiried insulin gtt.
   Now on standing and SSI.  FSBS continue to be elevated in 200-300s.
   - Switch to NPH [**Hospital1 **] [**4-24**] in am for ease of titration, especially as pt
   becomes hypoglycemic overnight. Continue current dose standing and SS
   regular insuline.
   - diabetic diet
   - Monitor closely as steroids tapered.
   # CV:
   - Ischemia:  Likely unstable angina.  CP with no EKG changes.  ASA 81mg
   PO QOD, nitro paste. Metoprolol decreased to [**Hospital 2085**]
   Medical optimization at this point given complicating co-morbidities.
   ? GI / GERD component also.  Sucralfate QHS.
   -Rate control: Metoprolol 100 mg PO TID, decreased yesterday in setting
   of PM bradycardia.
   -Pump: Given increase in creatinine, no further diuresis; he appears to
   be autodiuresing.  Continuing to hold ACEI at this time given
   interaction with Tacrolimus and poor renal fxn.  Patient may benefit
   from this in the long term. Will rediscuss as renal function improves.
   # ID:
   Given AML and immunocompromised state, on Acyclovir (SHV), voriconazole
   (fungal), atovaquone (PCP) ppx.
   - Enterococcus UTI, thought to be contaminant given slow growth on
   urine culture.  Repeat Ucx x2 contaminated.  Will continue to monitor
   clinically and resend if indicated. If this is actual infection, will
   aggressively treat given he is immunocompromised.
   - Pending galactomannan, B-glucan negative.
   - Strongyloides O+P negative, Ab negative
   - CMV viral load negative
   - Will recheck B glucan and galactomannan on [**4-21**], today, as per ID,
   pending currently.
   # ARF: Stable and improved.  Baseline 1.3-1.5.
   Likely tacro induced w/ high levels.
   - Continue to trend.
   - Continue to hold tacrolimus and ACEI, follow up BMT recs.
   # AML: STABLE. Tacrolimus currently being held, per BMT, as levels now
   below 5, no need to continue to monitor levels. - Tacrolimus (as
   above), mycophenylate mofetil
   - Ppx: Acyclovir, voriconazole, atrovaquone
   - Review BMT recs
   # Thrombocytopenia:  STABLE.  Transfuse plts >20 unless actively
   bleeding
   ICU Care
   Nutrition: Diabetic diet, taking PO
   Glycemic Control:  ISS
   Lines:
   Tunneled (Hickman) Line - [**2184-4-13**] 10:46 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lanzoprazole, sucralfate
   VAP:  none, not indicated
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: Call out to oncology today
   ------ Protected Section ------
   Mr. [**Known lastname 1414**] was seen and examined with the ICU team, and I was
   physically present for key portions of the services rendered. No sig
   changes to PMH, SH, FH, ROS since the admit note, which I reviewed,
   except for continued improved resp function. Minimal dry cough, no
   dyspnea at rest. Good appetite. CXR sig improved.
   The ICU team
s note reflects my input, with these comments:
   Key issue is hypoxemic respiratory failure:
          Clinically and radiographically improving on high dose
   steroids empiric for BOOP. Tapering to 60 PO qd prednisone. Continues
   to have periods of severe hypoxemia, particularly with any exertion.
   Hyperglycemia- off insulin drip, still needing adjusting of long-acting
   insulin and cover with ISS.
   Other issues as detailed in ICU team note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2184-4-23**] 18:09 ------